US06825181B1
Step 1: Synthesis of 5-methoxyisoquinoline:
5.6 g (38.6 mmol) of 5-hydroxyisoquinoline was dissolved in 70 ml of DMF. 2.63 ml (38.6 mmol) of methyl iodide and 7.99 g (57.9 mmol) of potassium carbonate were added to the obtained solution, and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extracting solvent in an ordinary manner, the crude product was obtained. It was purified by the silica gel column chromatography to obtain the title compound.

reactant | 5-hydroxyisoquinoline | 38.6 mmol, 5.6 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | methyl iodide | 38.6 mmol, 2.63 ml | CI | CH3I
reactant | potassium carbonate | 57.9 mmol, 7.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 5-methoxyisoquinoline | COC1=C2C=CN=CC2=CC=C1 | C10H9NO
